US06635640B2
3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-thiazol-2-yl-1,3-dihydroindol-2-one
4-Thiazol-2-yl-1,3dihydro-indol-2-one (54 mg, 0.25 mmol) was condensed with 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (69 mg, 0.275 mmol) to give the title compound.

reactant | 4-Thiazol-2-yl-1,3dihydro-indol-2-one | 0.25 mmol, 54 mg | S1C(=NC=C1)C1=C2CC(NC2=CC=C1)=O | C11H8N2OS
reactant | 3,5-dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.275 mmol, 69 mg | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=O | C13H19N3O2
product | 3-[3,5-Dimethyl-4-(4-methylpiperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-thiazol-2-yl-1,3-dihydroindol-2-one | CC1=C(NC(=C1C(=O)N1CCN(CC1)C)C)C=C1C(NC2=CC=CC(=C12)C=1SC=CN1)=O | C24H25N5O2S
